Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Transient Vision Loss
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year old gentleman with history of HIV on HAART
(pt reports undetectable VL, last CD4 1268), chronic headaches,
who presents for evaluation of left monocular vision loss. 

The patient was last normal at 6:30pm last evening while on his
way to visit a friend admitted at ___. While
walking, he started to develop blurriness of vision in the
temporal area of his left eye only. Over the next ___ minutes,
this slowly worsened and progressed towards the nasal portion of
his field as well. When he was in the hospital room, he started
seeing flashes of light described as yellow, green and red
lights. Subsequently he had total blackness in the left eye. 
This
concerned him and he stood up and walked out of the room. Within
5 minutes, his vision then reappeared, this time starting from
the nasal field extending to the temporal field.

All of the symptoms were painless and left eye only; on covering
the left eye he had normal vision throughout in his right eye. 
He
denies any diplopia or difficulty with gaze and fixation. He
states that his visual acuity is almost back to normal but on
covering his right eye, he finds the left eye remains slightly
blurry compared to normal. This has never happened before in the
past.

Neurologic ROS is positive for chronic headaches which he
describes as sharp, shooting pain starting from the left neck
radiating upwards over his occiput; he has been followed and
treated here at ___ by Drs. ___ for occipital
neuralgia and has experienced relief with nerve block injections
in the pain clinic. Of note, he was ordered for brain and
cervical spine MRI as an outpatient which he had not received 
yet
(brain MRI to evaluate for nonspecific ischemic changes seen on
head CT). He has had a dull headache for the past 3 days, which
he was told was from his cervical spondylosis. He denies any
worsening of headaches with position or straining maneuvers, and
no headache awakening him from sleep. He did have a recent 
wisdom
tooth surgery on the left with subsequent jaw pain on rest and
chewing, but prior to the surgery, he denies any jaw
claudication.

He otherwise denies dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech. Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HIV on HAART (pt reports undetectable VL, last CD4 1268)
Occipital neuralgia
Cervical spondylosis

 
Social History:
___
Family History:
Adopted, unaware of biologic family history.

 
Physical Exam:
Vitals: temp 98.2, HR 88, BP 142/89, RR 19, spO2 99% RA
General: Awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 10 minutes but with ___
after multiple choice cues. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm, both postsurgical with IOLs.
EOMI without nystagmus, normal saccades. VFF to confrontation.
Visual acuity OD ___ OS ___ without correction for myopia 
(pt
did not have reading glasses presented). Fundoscopic exam
revealed sharp discs bilaterally without papilledema, exudates,
or hemorrhages. Retinal vessels with normal contour, with
spontaneous venous pulsations.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred.

 
Pertinent Results:
___ 09:00PM   ___ PTT-35.7 ___
___ 09:00PM   PLT COUNT-226
___ 09:00PM   NEUTS-49.6 ___ MONOS-7.1 EOS-2.2 
BASOS-0.6 IM ___ AbsNeut-4.50 AbsLymp-3.65 AbsMono-0.64 
AbsEos-0.20 AbsBaso-0.05
___ 09:00PM   WBC-9.1 RBC-4.87 HGB-15.8 HCT-46.2 MCV-95 
MCH-32.4* MCHC-34.2 RDW-16.4* RDWSD-58.2*
___ 09:00PM   ASA-NEG ETHANOL-72* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:00PM   CRP-2.0
___ 09:00PM   ALBUMIN-4.7 CALCIUM-9.7 PHOSPHATE-3.5 
MAGNESIUM-2.5
___ 09:00PM   ALT(SGPT)-32 AST(SGOT)-23 ALK PHOS-71 TOT 
BILI-0.6

___ 09:00PM   GLUCOSE-102* UREA N-16 CREAT-1.3* SODIUM-141 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-22 ANION GAP-19
___ 09:14PM   LACTATE-1.8
___ 01:40AM URINE  RBC-0 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-2
___ 01:40AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:40AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 01:40AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:44AM   ___ PTT-31.7 ___
___ 04:44AM   PLT COUNT-211
___ 04:44AM   WBC-7.6 RBC-4.45* HGB-14.1 HCT-41.9 MCV-94 
MCH-31.7 MCHC-33.7 RDW-16.6* RDWSD-57.6*
___ 04:44AM   TSH-2.6
___ 04:44AM   TRIGLYCER-307* HDL CHOL-29 CHOL/HDL-6.8 
LDL(CALC)-107
___ 04:44AM   %HbA1c-3.8* eAG-62*
___ 04:44AM   CHOLEST-197
___ 04:44AM   GLUCOSE-113* UREA N-20 CREAT-1.2 SODIUM-138 
POTASSIUM-3.7 CHLORIDE-103 TOTAL CO2-23 ANION GAP-16
 
Brief Hospital Course:
Patient is a ___ year old M w/ PMH of HIV on HAART (pt reports 
undetectable VL, last CD4 1268), chronic headaches attributed to 
occipital neuralgia, who presented for evaluation of left 
monocular vision loss. His symptoms had resolved by time of 
admission and no findings on neuro and fundoscopic exam. Initial 
concern for acute ischemic event vs. ophthalmologic condition 
with plans for MRI and Ophthmo evaluation. Inflammatory markers 
were negative to suggest against vasculitis such as temporal 
arteritis. Due to resolution of symptoms and clinically stable, 
patient elected to be discharged from hospital and be evaluated 
by Ophthalmology as outpatient as well as obtain outpatient 
imaging. 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY 
2. Tenofovir Disoproxil (Viread) 150 mg PO DAILY 

 
Discharge Medications:
1. Tenofovir Disoproxil (Viread) 150 mg PO DAILY 
2. Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
monocular vision loss

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ for visual problems in the left 
eye. At this time, it is not clear if your symptoms are due to a 
vascular problem such as stroke; or a problem within the eye 
itself. We recommended an MRI and ophthalmology evaluation 
during your admission, however you chose to pursue these tests 
as an outpatient. The risk and benefits of doing so were 
thoroughly discussed.

We will order an outpatient MRI to be performed in an open 
scanner. We will provide you with the number for the 
ophthalmology clinic, please make an appointment there at your 
earliest convenience. You should also be seen in prompt follow 
up with your primary care physician and ___ neurologist.

Please return to the emergency room if you experience any 
recurrence of your symptoms.

We recommend that you take a daily aspirin (81 mg) for the time 
being.

Sincerely, 
___ Neurology
 
Followup Instructions:
___